US09035086B2
Benzaldehyde (2 mmol, 0.2 ml) and 0.05 g of LDH/APTES were stirred in 5 ml of dimethylformamide for 5 min. Then the active methylene compound i.e. ethyl cyanoacetate (2 mmol, 0.226 ml) was added and stirring was continued till 90 min at 27° C. The catalyst was filtered and the product was extracted with ethyl acetate, dried over anhydrous sodium sulfate. The final product (FIG. 2) was confirmed by Gas chromatography to afford the product (3-phenyl-2-propanoyl-prop-2-ene-nitrile) in 98% yield.

reactant | Benzaldehyde | 2 mmol, 0.2 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | APTES | CCO[Si](CCCN)(OCC)OCC | C9H23NO3Si
reactant | ethyl cyanoacetate | 2 mmol, 0.226 ml | C(#N)CC(=O)OCC | C5H7NO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-phenyl-2-propanoyl-prop-2-ene-nitrile | 98% yield | C1(=CC=CC=C1)C=C(C#N)C(CC)=O | C12H11NO
